datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([H:8])([H:9])[H:10])[C:3]([C:4](=[O:5])[H:13])([H:11])[H:12])([H:6])[H:7].[C:14](=[C:15][C:16]([H:19])([H:20])[H:21])([H:17])[H:18]>>[C:0](=[C:1]([C:2]([H:8])([H:9])[H:10])[C:3]([C:4]([O:5])([H:13])[C:15](=[C:14]([H:17])[H:18])[C:16]([H:19])([H:20])[H:21])([H:11])[H:12])([H:6])[H:7],64.9624576
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[S:4][H:9])[H:5].[S:10]([c:11]1[c:12]([H:18])[c:13]([H:19])[c:14]([H:20])[c:15]([H:21])[c:16]1[H:22])[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([S:4][H:9])[H:17])[H:5].[S:10][c:11]1[c:12]([H:18])[c:13]([H:19])[c:14]([H:20])[c:15]([H:21])[c:16]1[H:22],19.6648
[C:0](#[C:1][S:2][H:4])[H:3].[S:5][H:6]>>[C:0](#[C:1][S:2])[H:3].[H:4][S:5][H:6],12.1336
[C:0]([C:1](=[C:2]([c:3]1[c:4]([H:19])[c:5]([H:20])[c:6]([H:21])[c:7]([H:22])[c:8]1[H:23])[H:18])[c:9]1[c:10]([H:24])[c:11]([H:25])[c:12]([H:26])[c:13]([H:27])[c:14]1[H:28])([H:15])([H:16])[H:17].[C:29]([c:30]1[c:31]([H:38])[c:32]([H:39])[c:33]([H:40])[c:34]([H:41])[c:35]1[H:42])([H:36])[H:37]>>[C:0]([C:1]([C:2]([c:3]1[c:4]([H:19])[c:5]([H:20])[c:6]([H:21])[c:7]([H:22])[c:8]1[H:23])[H:18])([c:9]1[c:10]([H:24])[c:11]([H:25])[c:12]([H:26])[c:13]([H:27])[c:14]1[H:28])[C:29]([c:30]1[c:31]([H:38])[c:32]([H:39])[c:33]([H:40])[c:34]([H:41])[c:35]1[H:42])([H:36])[H:37])([H:15])([H:16])[H:17],51.6724
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])=[C:4]([C:5](=[C:6]([H:13])[H:14])[H:12])[H:11])[H:7].[C:15](=[C:16]([C:17]([C:18]([H:23])([H:24])[H:25])[H:22])[H:21])([H:19])[H:20]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([C:5](=[C:6]([H:13])[H:14])[H:12])[H:11])[C:17]([C:16](=[C:15]([H:19])[H:20])[H:21])([C:18]([H:23])([H:24])[H:25])[H:22])[H:7],45.3964
[C:0]([C:1]([O:2][O:3][H:12])([C:4]([C:5]([H:14])([H:15])[H:16])([C:6]([O:7][O:8][H:19])([H:17])[H:18])[H:13])[H:11])([H:9])[H:10]>>[C:0]1([H:9])([H:10])[C:1]([O:2][O:3][H:12])([H:11])[C:4]([C:5]([H:14])([H:15])[H:16])([H:13])[C:6]([H:17])([H:18])[O:7]1.[O:8][H:19],43.932
[C:0]([C:1]([c:2]1[c:3]([H:13])[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]1[H:17])([H:11])[H:12])([H:8])([H:9])[H:10].[S:18]=[C:19]([C:20]([S:21][H:24])[H:23])[H:22]>>[C:0]([C:1]([c:2]1[c:3]([H:13])[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]1[H:17])[H:12])([H:8])([H:9])[H:10].[H:11][C:20]([C:19](=[S:18])[H:22])([S:21][H:24])[H:23],79.9144
[C:0](#[C:1][C:2]([C:3]([C:4]([C:5]([C:6](=[C:7]([H:18])[H:19])[H:17])=[C:8]([C:9]#[C:10][H:21])[H:20])([H:15])[H:16])([H:13])[H:14])[H:12])[H:11]>>[C:0](#[C:1][C:2]1([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([C:6](=[C:7]([H:18])[H:19])[H:17])[C:8]1([C:9]#[C:10][H:21])[H:20])[H:11],72.7179
[C:0](=[C:1]([C:2]([S:3][H:9])([H:7])[H:8])[H:6])([H:4])[H:5].[C:10](=[C:11]([C:12]([C:13](=[C:14]([H:20])[H:21])[H:19])[H:18])[H:17])([H:15])[H:16]>>[C:0](=[C:1]([C:2]([S:3][H:9])[H:8])[H:6])([H:4])[H:5].[H:7][C:12]([C:11](=[C:10]([H:15])[H:16])[H:17])([C:13](=[C:14]([H:20])[H:21])[H:19])[H:18],52.7184
[C:0](=[C:1]=[C:2]([H:5])[H:6])([H:3])[H:4].[C:7]([C:8]([C:9]([H:19])([H:20])[H:21])[c:10]1[c:11]([H:22])[c:12]([H:23])[c:13]([H:24])[c:14]([H:25])[c:15]1[H:26])([H:16])([H:17])[H:18]>>[C:0]([C:1]=[C:2]([H:5])[H:6])([H:3])([H:4])[C:8]([C:7]([H:16])([H:17])[H:18])([C:9]([H:19])([H:20])[H:21])[c:10]1[c:11]([H:22])[c:12]([H:23])[c:13]([H:24])[c:14]([H:25])[c:15]1[H:26],37.3631
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:9])([H:10])[H:11])[C:5](=[C:6]([H:13])[H:14])[H:12])[H:8])[H:7].[C:15](=[C:16]([C:17]([C:18]([H:23])([H:24])[H:25])[H:22])[H:21])([H:19])[H:20]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:9])([H:10])[H:11])[C:5](=[C:6]([H:13])[H:14])[H:12])([H:8])[C:17]([C:16](=[C:15]([H:19])[H:20])[H:21])([C:18]([H:23])([H:24])[H:25])[H:22])[H:7],37.7397
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9]([C:10](=[C:11]([c:12]1[c:13]([H:28])[c:14]([H:29])[c:15]([H:30])[c:16]([H:31])[c:17]1[H:32])[H:27])[c:18]1[c:19]([H:33])[c:20]([H:34])[c:21]([H:35])[c:22]([H:36])[c:23]1[H:37])([H:24])([H:25])[H:26]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[C:10]([C:9]([H:24])([H:25])[H:26])([C:11]([c:12]1[c:13]([H:28])[c:14]([H:29])[c:15]([H:30])[c:16]([H:31])[c:17]1[H:32])[H:27])[c:18]1[c:19]([H:33])[c:20]([H:34])[c:21]([H:35])[c:22]([H:36])[c:23]1[H:37])[H:4],48.7018
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]#[C:5][H:10])[H:6].[C:11]([C:12]([c:13]1[c:14]([H:24])[c:15]([H:25])[c:16]([H:26])[c:17]([H:27])[c:18]1[H:28])([H:22])[H:23])([H:19])([H:20])[H:21]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]#[C:5][H:10])[H:22])[H:6].[C:11]([C:12]([c:13]1[c:14]([H:24])[c:15]([H:25])[c:16]([H:26])[c:17]([H:27])[c:18]1[H:28])[H:23])([H:19])([H:20])[H:21],48.5344
[C:0](=[N:1])([H:2])[H:3].[N:4][H:5]>>[C:0](#[N:1])[H:3].[H:2][N:4][H:5],-3.740496
[C:0](#[C:1][C:2]([C:3]([C:4]([C:5]([C:6](=[C:7]([H:17])[H:18])[C:8]([H:19])([H:20])[H:21])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])[H:10])[H:9]>>[C:0](#[C:1][C:2]1([H:10])[C:3]([H:11])([H:12])[C:4]([H:13])([H:14])[C:5]([H:15])([H:16])[C:6]([C:8]([H:19])([H:20])[H:21])[C:7]1([H:17])[H:18])[H:9],53.2205
